US07960561B2
N-(Benzimidazol-2-yl)-4-(trifluoromethoxy)aniline
The title compound was prepared from 2-chlorobenzimidazole and 4-(trifluoromethoxy)aniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (white solid, mp 250-251° C.). MS(ES+) m/z 294 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-(trifluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | N-(Benzimidazol-2-yl)-4-(trifluoromethoxy)aniline | N1=C(NC2=C1C=CC=C2)NC2=CC=C(C=C2)OC(F)(F)F | C14H10F3N3O
